* extracted by klt extract --deck sg13cmos5l
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior
.GLOBAL vsubs

* cell pll_cp
* pin DN
* pin DNB
* pin IBN
* pin IBP
* pin ICN
* pin ICP
* pin UP
* pin UPB
* pin VDD
* pin VDUMP
* pin VOUT
* pin VSS
* pin XLEGN_sw
* pin XLEGN_tail
* pin XLEGP_sw
* pin XLEGP_tail
* pin nxn
* pin nxp
.SUBCKT pll_cp DN DNB IBN IBP ICN ICP UP UPB VDD VDUMP VOUT VSS XLEGN_sw
+ XLEGN_tail XLEGP_sw XLEGP_tail nxn nxp
* device instance $1 r0 *1 2.3,3.11 nfet
X$1 UPB__t0 UP__t2 VSS__t0 VSS__t6 sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $2 r0 *1 6.26,3.11 nfet
X$2 DNB__t1 DN__t1 VSS__t5 VSS__t7 sg13_hv_nmos L=0.5U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $3 r0 *1 16.86,4.36 nfet
X$3 ICN__t0 ICN__t1 VSS__t1 VSS__t8 sg13_hv_nmos L=3U W=2U AS=0.8P AD=0.8P
+ PS=4.8U PD=4.8U
* device instance $4 r0 *1 28.46,3.36 nfet
X$4 VDUMP__t0 IBN__t0 VSS__t2 VSS__t9 sg13_hv_nmos L=1U W=4U AS=1.6P AD=1.6P
+ PS=8.8U PD=8.8U
* device instance $5 r0 *1 42.06,3.01 nfet
X$5 VOUT__t2 DN__t0 XLEGN_sw__t1 VSS__t10 sg13_hv_nmos L=0.3U W=6U AS=2.4P
+ AD=2.4P PS=12.8U PD=12.8U
* device instance $6 r0 *1 50.02,3.01 nfet
X$6 VDUMP__t2 DNB__t2 XLEGN_sw__t2 VSS__t11 sg13_hv_nmos L=0.3U W=6U AS=2.4P
+ AD=2.4P PS=12.8U PD=12.8U
* device instance $7 r0 *1 64.62,3.11 nfet
X$7 VDD__t0 VOUT__t1 VDUMP__t1 VSS__t12 sg13_hv_nmos L=0.5U W=6U AS=2.4P
+ AD=2.4P PS=12.8U PD=12.8U
* device instance $8 r0 *1 80.22,3.36 nfet
X$8 XLEGN_tail__t0 IBN__t1 VSS__t3 VSS__t13 sg13_hv_nmos L=1U W=8U AS=3.2P
+ AD=3.2P PS=16.8U PD=16.8U
* device instance $9 r0 *1 90.18,3.36 nfet
X$9 XLEGN_sw__t0 ICN__t2 XLEGN_tail__t1 VSS__t14 sg13_hv_nmos L=1U W=8U AS=3.2P
+ AD=3.2P PS=16.8U PD=16.8U
* device instance $10 r0 *1 100.14,3.36 nfet
X$10 nxn__t0 IBN__t2 VSS__t4 VSS__t15 sg13_hv_nmos L=1U W=8U AS=3.2P AD=3.2P
+ PS=16.8U PD=16.8U
* device instance $11 r0 *1 110.1,3.36 nfet
X$11 IBN__t3 ICN__t3 nxn__t1 VSS__t16 sg13_hv_nmos L=1U W=8U AS=3.2P AD=3.2P
+ PS=16.8U PD=16.8U
* device instance $12 r0 *1 125.2,3.11 pfet
X$12 UPB__t1 UP__t1 VDD__t2 VDD__t1 sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P
+ PS=10.8U PD=10.8U
* device instance $13 r0 *1 132.16,3.11 pfet
X$13 DNB__t0 DN__t2 VDD__t13 VDD__t14 sg13_hv_pmos L=0.5U W=5U AS=2P AD=2P
+ PS=10.8U PD=10.8U
* device instance $14 r0 *1 146.26,3.01 pfet
X$14 VOUT__t0 UPB__t2 XLEGP_sw__t0 VDD__t3 sg13_hv_pmos L=0.3U W=6U AS=2.4P
+ AD=2.4P PS=12.8U PD=12.8U
* device instance $15 r0 *1 154.22,3.01 pfet
X$15 VDUMP__t3 UP__t0 XLEGP_sw__t1 VDD__t12 sg13_hv_pmos L=0.3U W=6U AS=2.4P
+ AD=2.4P PS=12.8U PD=12.8U
* device instance $16 r0 *1 168.82,4.36 pfet
X$16 ICP__t0 ICP__t1 VDD__t5 VDD__t4 sg13_hv_pmos L=3U W=6U AS=2.4P AD=2.4P
+ PS=12.8U PD=12.8U
* device instance $17 r0 *1 192.42,3.36 pfet
X$17 XLEGP_tail__t0 IBP__t0 VDD__t7 VDD__t6 sg13_hv_pmos L=1U W=24U AS=9.6P
+ AD=9.6P PS=48.8U PD=48.8U
* device instance $18 r0 *1 218.38,3.36 pfet
X$18 XLEGP_sw__t2 ICP__t3 XLEGP_tail__t1 VDD__t11 sg13_hv_pmos L=1U W=24U
+ AS=9.6P AD=9.6P PS=48.8U PD=48.8U
* device instance $19 r0 *1 244.34,3.36 pfet
X$19 nxp__t0 IBP__t1 VDD__t8 VDD__t10 sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P
+ PS=48.8U PD=48.8U
* device instance $20 r0 *1 270.3,3.36 pfet
X$20 IBP__t2 ICP__t2 nxp__t1 VDD__t9 sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P
+ PS=48.8U PD=48.8U
* device instance DN_t0 r0 *1 0,0 
RDN_t0 DN__t0 DN 5.49296709671
* device instance DN_t1 r0 *1 0,0 
RDN_t1 DN__t1 DN 16.357401926
* device instance DN_t2 r0 *1 0,0 
RDN_t2 DN__t2 DN 21.8503309773
* device instance DN r0 *1 0,0 
CDN DN vsubs 9.822729e-15
* device instance DNB_t0 r0 *1 0,0 
RDNB_t0 DNB__t0 DNB 23.2283206052
* device instance DNB_t1 r0 *1 0,0 
RDNB_t1 DNB__t1 DNB 18.9430739433
* device instance DNB_t2 r0 *1 0,0 
RDNB_t2 DNB__t2 DNB 4.28530545155
* device instance DNB r0 *1 0,0 
CDNB DNB vsubs 1.039438e-14
* device instance IBN_t0 r0 *1 0,0 
RIBN_t0 IBN__t0 IBN 18.74755
* device instance IBN_t1 r0 *1 0,0 
RIBN_t1 IBN__t1 IBN 0.179174946362
* device instance IBN_t2 r0 *1 0,0 
RIBN_t2 IBN__t2 IBN 7.46318501073
* device instance IBN_t3 r0 *1 0,0 
RIBN_t3 IBN__t3 IBN 11.1051900429
* device instance IBN r0 *1 0,0 
CIBN IBN vsubs 8.476104e-15
* device instance IBP_t0 r0 *1 0,0 
RIBP_t0 IBP__t0 IBP 20.7498
* device instance IBP_t1 r0 *1 0,0 
RIBP_t1 IBP__t1 IBP 4.14996
* device instance IBP_t2 r0 *1 0,0 
RIBP_t2 IBP__t2 IBP 16.59984
* device instance IBP r0 *1 0,0 
CIBP IBP vsubs 9.281544e-15
* device instance ICN_t0 r0 *1 0,0 
RICN_t0 ICN__t0 ICN 9.55007911592
* device instance ICN_t1 r0 *1 0,0 
RICN_t1 ICN__t1 ICN 9.55007911592
* device instance ICN_t2 r0 *1 0,0 
RICN_t2 ICN__t2 ICN 7.26614731616
* device instance ICN_t3 r0 *1 0,0 
RICN_t3 ICN__t3 ICN 11.834094452
* device instance ICN r0 *1 0,0 
CICN ICN vsubs 8.675193e-15
* device instance ICP_t0 r0 *1 0,0 
RICP_t0 ICP__t0 ICP 10.3041205063
* device instance ICP_t1 r0 *1 0,0 
RICP_t1 ICP__t1 ICP 10.3041205063
* device instance ICP_t2 r0 *1 0,0 
RICP_t2 ICP__t2 ICP 17.387214413
* device instance ICP_t3 r0 *1 0,0 
RICP_t3 ICP__t3 ICP 3.22264457434
* device instance ICP r0 *1 0,0 
CICP ICP vsubs 9.38264e-15
* device instance UP_t0 r0 *1 0,0 
RUP_t0 UP__t0 UP 17.8920753865
* device instance UP_t1 r0 *1 0,0 
RUP_t1 UP__t1 UP 9.2832318122
* device instance UP_t2 r0 *1 0,0 
RUP_t2 UP__t2 UP 27.1752928013
* device instance UP r0 *1 0,0 
CUP UP vsubs 1.2306901e-14
* device instance UPB_t0 r0 *1 0,0 
RUPB_t0 UPB__t0 UPB 27.168892285
* device instance UPB_t1 r0 *1 0,0 
RUPB_t1 UPB__t1 UPB 10.368287229
* device instance UPB_t2 r0 *1 0,0 
RUPB_t2 UPB__t2 UPB 16.800620486
* device instance UPB r0 *1 0,0 
CUPB UPB vsubs 1.2268462e-14
* device instance VDD_t0 r0 *1 0,0 
RVDD_t0 VDD__t0 VDD 23.4587862358
* device instance VDD_t1 r0 *1 0,0 
RVDD_t1 VDD__t1 VDD 10.2214955097
* device instance VDD_t2 r0 *1 0,0 
RVDD_t2 VDD__t2 VDD 10.2214955097
* device instance VDD_t3 r0 *1 0,0 
RVDD_t3 VDD__t3 VDD 5.62004163259
* device instance VDD_t4 r0 *1 0,0 
RVDD_t4 VDD__t4 VDD 0.72346821887
* device instance VDD_t5 r0 *1 0,0 
RVDD_t5 VDD__t5 VDD 0.72346821887
* device instance VDD_t6 r0 *1 0,0 
RVDD_t6 VDD__t6 VDD 4.46694048512
* device instance VDD_t7 r0 *1 0,0 
RVDD_t7 VDD__t7 VDD 4.46694048512
* device instance VDD_t8 r0 *1 0,0 
RVDD_t8 VDD__t8 VDD 15.812013504
* device instance VDD_t9 r0 *1 0,0 
RVDD_t9 VDD__t9 VDD 21.4845500303
* device instance VDD_t10 r0 *1 0,0 
RVDD_t10 VDD__t10 VDD 15.812013504
* device instance VDD_t11 r0 *1 0,0 
RVDD_t11 VDD__t11 VDD 10.1394769826
* device instance VDD_t12 r0 *1 0,0 
RVDD_t12 VDD__t12 VDD 3.8809345406
* device instance VDD_t13 r0 *1 0,0 
RVDD_t13 VDD__t13 VDD 8.70068757144
* device instance VDD_t14 r0 *1 0,0 
RVDD_t14 VDD__t14 VDD 8.70068757144
* device instance VDD r0 *1 0,0 
CVDD VDD vsubs 4.0315933e-14
* device instance VDUMP_t0 r0 *1 0,0 
RVDUMP_t0 VDUMP__t0 VDUMP 17.4348626646
* device instance VDUMP_t1 r0 *1 0,0 
RVDUMP_t1 VDUMP__t1 VDUMP 3.69065593133
* device instance VDUMP_t2 r0 *1 0,0 
RVDUMP_t2 VDUMP__t2 VDUMP 9.24003419719
* device instance VDUMP_t3 r0 *1 0,0 
RVDUMP_t3 VDUMP__t3 VDUMP 30.3652472069
* device instance VDUMP r0 *1 0,0 
CVDUMP VDUMP vsubs 1.371067e-14
* device instance VOUT_t0 r0 *1 0,0 
RVOUT_t0 VOUT__t0 VOUT 23.7360775806
* device instance VOUT_t1 r0 *1 0,0 
RVOUT_t1 VOUT__t1 VOUT 7.5459281944
* device instance VOUT_t2 r0 *1 0,0 
RVOUT_t2 VOUT__t2 VOUT 16.190194225
* device instance VOUT r0 *1 0,0 
CVOUT VOUT vsubs 1.0787728e-14
* device instance VSS_t0 r0 *1 0,0 
RVSS_t0 VSS__t0 VSS 8.80637378271
* device instance VSS_t1 r0 *1 0,0 
RVSS_t1 VSS__t1 VSS 6.03731447729
* device instance VSS_t2 r0 *1 0,0 
RVSS_t2 VSS__t2 VSS 3.82593798167
* device instance VSS_t3 r0 *1 0,0 
RVSS_t3 VSS__t3 VSS 6.02805843462
* device instance VSS_t4 r0 *1 0,0 
RVSS_t4 VSS__t4 VSS 9.82040014171
* device instance VSS_t5 r0 *1 0,0 
RVSS_t5 VSS__t5 VSS 8.05248685205
* device instance VSS_t6 r0 *1 0,0 
RVSS_t6 VSS__t6 VSS 8.80637378271
* device instance VSS_t7 r0 *1 0,0 
RVSS_t7 VSS__t7 VSS 8.05248685205
* device instance VSS_t8 r0 *1 0,0 
RVSS_t8 VSS__t8 VSS 6.03731447729
* device instance VSS_t9 r0 *1 0,0 
RVSS_t9 VSS__t9 VSS 3.82593798167
* device instance VSS_t10 r0 *1 0,0 
RVSS_t10 VSS__t10 VSS 1.23861285278
* device instance VSS_t11 r0 *1 0,0 
RVSS_t11 VSS__t11 VSS 0.286612173034
* device instance VSS_t12 r0 *1 0,0 
RVSS_t12 VSS__t12 VSS 3.05853134943
* device instance VSS_t13 r0 *1 0,0 
RVSS_t13 VSS__t13 VSS 6.02805843462
* device instance VSS_t14 r0 *1 0,0 
RVSS_t14 VSS__t14 VSS 7.92422928696
* device instance VSS_t15 r0 *1 0,0 
RVSS_t15 VSS__t15 VSS 9.82040014171
* device instance VSS_t16 r0 *1 0,0 
RVSS_t16 VSS__t16 VSS 11.7165709977
* device instance VSS r0 *1 0,0 
CVSS VSS vsubs 2.9488515e-14
* device instance XLEGN_sw_t0 r0 *1 0,0 
RXLEGN_sw_t0 XLEGN_sw__t0 XLEGN_sw 17.6693780761
* device instance XLEGN_sw_t1 r0 *1 0,0 
RXLEGN_sw_t1 XLEGN_sw__t1 XLEGN_sw 11.2243641888
* device instance XLEGN_sw_t2 r0 *1 0,0 
RXLEGN_sw_t2 XLEGN_sw__t2 XLEGN_sw 6.4450577351
* device instance XLEGN_sw r0 *1 0,0 
CXLEGN_sw XLEGN_sw vsubs 8.09716e-15
* device instance XLEGN_tail_t0 r0 *1 0,0 
RXLEGN_tail_t0 XLEGN_tail__t0 XLEGN_tail 9.0985
* device instance XLEGN_tail_t1 r0 *1 0,0 
RXLEGN_tail_t1 XLEGN_tail__t1 XLEGN_tail 9.0985
* device instance XLEGN_tail r0 *1 0,0 
CXLEGN_tail XLEGN_tail vsubs 4.235124e-15
* device instance XLEGP_sw_t0 r0 *1 0,0 
RXLEGP_sw_t0 XLEGP_sw__t0 XLEGP_sw 14.0591333773
* device instance XLEGP_sw_t1 r0 *1 0,0 
RXLEGP_sw_t1 XLEGP_sw__t1 XLEGP_sw 9.86677162146
* device instance XLEGP_sw_t2 r0 *1 0,0 
RXLEGP_sw_t2 XLEGP_sw__t2 XLEGP_sw 23.9258950012
* device instance XLEGP_sw r0 *1 0,0 
CXLEGP_sw XLEGP_sw vsubs 1.0850007e-14
* device instance XLEGP_tail_t0 r0 *1 0,0 
RXLEGP_tail_t0 XLEGP_tail__t0 XLEGP_tail 18.56445
* device instance XLEGP_tail_t1 r0 *1 0,0 
RXLEGP_tail_t1 XLEGP_tail__t1 XLEGP_tail 18.56445
* device instance XLEGP_tail r0 *1 0,0 
CXLEGP_tail XLEGP_tail vsubs 8.298864e-15
* device instance nxn_t0 r0 *1 0,0 
Rnxn_t0 nxn__t0 nxn 9.6263
* device instance nxn_t1 r0 *1 0,0 
Rnxn_t1 nxn__t1 nxn 9.6263
* device instance nxn r0 *1 0,0 
Cnxn nxn vsubs 4.518827e-15
* device instance nxp_t0 r0 *1 0,0 
Rnxp_t0 nxp__t0 nxp 18.91635
* device instance nxp_t1 r0 *1 0,0 
Rnxp_t1 nxp__t1 nxp 18.91635
* device instance nxp r0 *1 0,0 
Cnxp nxp vsubs 8.490727e-15
* device instance cc_DN_DNB r0 *1 0,0 
Ccc_DN_DNB DN DNB 1.21e-17
* device instance cc_DN_IBN r0 *1 0,0 
Ccc_DN_IBN DN IBN 2.4201e-17
* device instance cc_DN_ICN r0 *1 0,0 
Ccc_DN_ICN DN ICN 2.4201e-17
* device instance cc_DN_UP r0 *1 0,0 
Ccc_DN_UP DN UP 6.05e-18
* device instance cc_DN_UPB r0 *1 0,0 
Ccc_DN_UPB DN UPB 6.05e-18
* device instance cc_DN_VDD r0 *1 0,0 
Ccc_DN_VDD DN VDD 1.8151e-17
* device instance cc_DN_VDUMP r0 *1 0,0 
Ccc_DN_VDUMP DN VDUMP 1.8151e-17
* device instance cc_DN_VOUT r0 *1 0,0 
Ccc_DN_VOUT DN VOUT 1.21e-17
* device instance cc_DN_VSS r0 *1 0,0 
Ccc_DN_VSS DN VSS 6.0502e-17
* device instance cc_DN_XLEGN_sw r0 *1 0,0 
Ccc_DN_XLEGN_sw DN XLEGN_sw 1.8151e-17
* device instance cc_DN_XLEGN_tail r0 *1 0,0 
Ccc_DN_XLEGN_tail DN XLEGN_tail 1.21e-17
* device instance cc_DN_nxn r0 *1 0,0 
Ccc_DN_nxn DN nxn 1.21e-17
* device instance cc_DNB_IBN r0 *1 0,0 
Ccc_DNB_IBN DNB IBN 2.4201e-17
* device instance cc_DNB_ICN r0 *1 0,0 
Ccc_DNB_ICN DNB ICN 2.4201e-17
* device instance cc_DNB_UP r0 *1 0,0 
Ccc_DNB_UP DNB UP 6.05e-18
* device instance cc_DNB_UPB r0 *1 0,0 
Ccc_DNB_UPB DNB UPB 6.05e-18
* device instance cc_DNB_VDD r0 *1 0,0 
Ccc_DNB_VDD DNB VDD 2.9445e-17
* device instance cc_DNB_VDUMP r0 *1 0,0 
Ccc_DNB_VDUMP DNB VDUMP 1.8151e-17
* device instance cc_DNB_VOUT r0 *1 0,0 
Ccc_DNB_VOUT DNB VOUT 1.21e-17
* device instance cc_DNB_VSS r0 *1 0,0 
Ccc_DNB_VSS DNB VSS 5.9696e-17
* device instance cc_DNB_XLEGN_sw r0 *1 0,0 
Ccc_DNB_XLEGN_sw DNB XLEGN_sw 1.8151e-17
* device instance cc_DNB_XLEGN_tail r0 *1 0,0 
Ccc_DNB_XLEGN_tail DNB XLEGN_tail 1.21e-17
* device instance cc_DNB_nxn r0 *1 0,0 
Ccc_DNB_nxn DNB nxn 1.21e-17
* device instance cc_IBN_ICN r0 *1 0,0 
Ccc_IBN_ICN IBN ICN 1.21e-17
* device instance cc_IBN_VDD r0 *1 0,0 
Ccc_IBN_VDD IBN VDD 6.05e-18
* device instance cc_IBN_VDUMP r0 *1 0,0 
Ccc_IBN_VDUMP IBN VDUMP 1.8151e-17
* device instance cc_IBN_VOUT r0 *1 0,0 
Ccc_IBN_VOUT IBN VOUT 1.21e-17
* device instance cc_IBN_VSS r0 *1 0,0 
Ccc_IBN_VSS IBN VSS 3.6302e-17
* device instance cc_IBN_XLEGN_sw r0 *1 0,0 
Ccc_IBN_XLEGN_sw IBN XLEGN_sw 1.8151e-17
* device instance cc_IBN_XLEGN_tail r0 *1 0,0 
Ccc_IBN_XLEGN_tail IBN XLEGN_tail 1.21e-17
* device instance cc_IBN_nxn r0 *1 0,0 
Ccc_IBN_nxn IBN nxn 1.7344e-17
* device instance cc_IBP_ICP r0 *1 0,0 
Ccc_IBP_ICP IBP ICP 1.21e-17
* device instance cc_IBP_VDD r0 *1 0,0 
Ccc_IBP_VDD IBP VDD 1.21e-17
* device instance cc_IBP_XLEGP_sw r0 *1 0,0 
Ccc_IBP_XLEGP_sw IBP XLEGP_sw 6.05e-18
* device instance cc_IBP_XLEGP_tail r0 *1 0,0 
Ccc_IBP_XLEGP_tail IBP XLEGP_tail 1.21e-17
* device instance cc_IBP_nxp r0 *1 0,0 
Ccc_IBP_nxp IBP nxp 1.7344e-17
* device instance cc_ICN_VDD r0 *1 0,0 
Ccc_ICN_VDD ICN VDD 6.05e-18
* device instance cc_ICN_VDUMP r0 *1 0,0 
Ccc_ICN_VDUMP ICN VDUMP 1.8151e-17
* device instance cc_ICN_VOUT r0 *1 0,0 
Ccc_ICN_VOUT ICN VOUT 1.21e-17
* device instance cc_ICN_VSS r0 *1 0,0 
Ccc_ICN_VSS ICN VSS 5.3646e-17
* device instance cc_ICN_XLEGN_sw r0 *1 0,0 
Ccc_ICN_XLEGN_sw ICN XLEGN_sw 1.8151e-17
* device instance cc_ICN_XLEGN_tail r0 *1 0,0 
Ccc_ICN_XLEGN_tail ICN XLEGN_tail 1.21e-17
* device instance cc_ICN_nxn r0 *1 0,0 
Ccc_ICN_nxn ICN nxn 6.05e-18
* device instance cc_ICP_VDD r0 *1 0,0 
Ccc_ICP_VDD ICP VDD 2.9445e-17
* device instance cc_ICP_XLEGP_sw r0 *1 0,0 
Ccc_ICP_XLEGP_sw ICP XLEGP_sw 6.05e-18
* device instance cc_ICP_XLEGP_tail r0 *1 0,0 
Ccc_ICP_XLEGP_tail ICP XLEGP_tail 1.21e-17
* device instance cc_ICP_nxp r0 *1 0,0 
Ccc_ICP_nxp ICP nxp 6.05e-18
* device instance cc_UP_UPB r0 *1 0,0 
Ccc_UP_UPB UP UPB 1.8151e-17
* device instance cc_UP_VDD r0 *1 0,0 
Ccc_UP_VDD UP VDD 3.0251e-17
* device instance cc_UP_VDUMP r0 *1 0,0 
Ccc_UP_VDUMP UP VDUMP 1.8151e-17
* device instance cc_UP_VOUT r0 *1 0,0 
Ccc_UP_VOUT UP VOUT 1.8151e-17
* device instance cc_UP_VSS r0 *1 0,0 
Ccc_UP_VSS UP VSS 6.6553e-17
* device instance cc_UP_XLEGN_sw r0 *1 0,0 
Ccc_UP_XLEGN_sw UP XLEGN_sw 1.8151e-17
* device instance cc_UP_XLEGN_tail r0 *1 0,0 
Ccc_UP_XLEGN_tail UP XLEGN_tail 1.21e-17
* device instance cc_UP_XLEGP_sw r0 *1 0,0 
Ccc_UP_XLEGP_sw UP XLEGP_sw 6.05e-18
* device instance cc_UP_nxn r0 *1 0,0 
Ccc_UP_nxn UP nxn 1.21e-17
* device instance cc_UPB_VDD r0 *1 0,0 
Ccc_UPB_VDD UPB VDD 3.5495e-17
* device instance cc_UPB_VDUMP r0 *1 0,0 
Ccc_UPB_VDUMP UPB VDUMP 1.8151e-17
* device instance cc_UPB_VOUT r0 *1 0,0 
Ccc_UPB_VOUT UPB VOUT 1.21e-17
* device instance cc_UPB_VSS r0 *1 0,0 
Ccc_UPB_VSS UPB VSS 6.5746e-17
* device instance cc_UPB_XLEGN_sw r0 *1 0,0 
Ccc_UPB_XLEGN_sw UPB XLEGN_sw 1.8151e-17
* device instance cc_UPB_XLEGN_tail r0 *1 0,0 
Ccc_UPB_XLEGN_tail UPB XLEGN_tail 1.21e-17
* device instance cc_UPB_nxn r0 *1 0,0 
Ccc_UPB_nxn UPB nxn 1.21e-17
* device instance cc_VDD_VDUMP r0 *1 0,0 
Ccc_VDD_VDUMP VDD VDUMP 1.1294e-17
* device instance cc_VDD_VOUT r0 *1 0,0 
Ccc_VDD_VOUT VDD VOUT 6.05e-18
* device instance cc_VDD_VSS r0 *1 0,0 
Ccc_VDD_VSS VDD VSS 1.8151e-17
* device instance cc_VDD_XLEGN_sw r0 *1 0,0 
Ccc_VDD_XLEGN_sw VDD XLEGN_sw 6.05e-18
* device instance cc_VDD_XLEGN_tail r0 *1 0,0 
Ccc_VDD_XLEGN_tail VDD XLEGN_tail 1.21e-17
* device instance cc_VDD_XLEGP_sw r0 *1 0,0 
Ccc_VDD_XLEGP_sw VDD XLEGP_sw 1.8151e-17
* device instance cc_VDD_XLEGP_tail r0 *1 0,0 
Ccc_VDD_XLEGP_tail VDD XLEGP_tail 1.7344e-17
* device instance cc_VDD_nxn r0 *1 0,0 
Ccc_VDD_nxn VDD nxn 1.21e-17
* device instance cc_VDD_nxp r0 *1 0,0 
Ccc_VDD_nxp VDD nxp 5.244e-18
* device instance cc_VDUMP_VOUT r0 *1 0,0 
Ccc_VDUMP_VOUT VDUMP VOUT 1.8151e-17
* device instance cc_VDUMP_VSS r0 *1 0,0 
Ccc_VDUMP_VSS VDUMP VSS 3.5495e-17
* device instance cc_VDUMP_XLEGN_sw r0 *1 0,0 
Ccc_VDUMP_XLEGN_sw VDUMP XLEGN_sw 2.3394e-17
* device instance cc_VDUMP_XLEGN_tail r0 *1 0,0 
Ccc_VDUMP_XLEGN_tail VDUMP XLEGN_tail 1.21e-17
* device instance cc_VDUMP_XLEGP_sw r0 *1 0,0 
Ccc_VDUMP_XLEGP_sw VDUMP XLEGP_sw 1.7344e-17
* device instance cc_VDUMP_nxn r0 *1 0,0 
Ccc_VDUMP_nxn VDUMP nxn 1.21e-17
* device instance cc_VOUT_VSS r0 *1 0,0 
Ccc_VOUT_VSS VOUT VSS 2.4201e-17
* device instance cc_VOUT_XLEGN_sw r0 *1 0,0 
Ccc_VOUT_XLEGN_sw VOUT XLEGN_sw 1.7344e-17
* device instance cc_VOUT_XLEGN_tail r0 *1 0,0 
Ccc_VOUT_XLEGN_tail VOUT XLEGN_tail 1.21e-17
* device instance cc_VOUT_XLEGP_sw r0 *1 0,0 
Ccc_VOUT_XLEGP_sw VOUT XLEGP_sw 1.1294e-17
* device instance cc_VOUT_nxn r0 *1 0,0 
Ccc_VOUT_nxn VOUT nxn 1.21e-17
* device instance cc_VSS_XLEGN_sw r0 *1 0,0 
Ccc_VSS_XLEGN_sw VSS XLEGN_sw 1.8151e-17
* device instance cc_VSS_XLEGN_tail r0 *1 0,0 
Ccc_VSS_XLEGN_tail VSS XLEGN_tail 1.7344e-17
* device instance cc_VSS_nxn r0 *1 0,0 
Ccc_VSS_nxn VSS nxn 5.244e-18
* device instance cc_XLEGN_sw_XLEGN_tail r0 *1 0,0 
Ccc_XLEGN_sw_XLEGN_tail XLEGN_sw XLEGN_tail 1.7344e-17
* device instance cc_XLEGP_sw_XLEGP_tail r0 *1 0,0 
Ccc_XLEGP_sw_XLEGP_tail XLEGP_sw XLEGP_tail 1.7344e-17
* device instance vsubs_dctie r0 *1 0,0 
Rvsubs_dctie vsubs 0 1e+12
.ENDS pll_cp
